reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C:2]([N:3]([C:4]([C:5]#[N:6])([H:13])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([N+:3]([C-:4]([C:5]#[N:6])[H:13])([H:12])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9],67.9304608975739
[C:1]([N:2]([C@@:3]([C:4]([O:5][H:15])([H:13])[H:14])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C+:1]([N:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])=[C:6]=[N-:7])[H:11])([H:8])[H:9].[H:10][H:12],66.1837689974868
[C:1](/[C:2](=[C:4](\[C:5]([H:14])([H:15])[H:16])[C:6]#[N:7])[H:11])([H:8])([H:9])[H:10].[O:3]([H:12])[H:13]>>[C:1]([C@@:2]([O:3][H:12])([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])[H:13])[H:11])([H:8])([H:9])[H:10],52.72476546529188
[C:1]1([H:7])([H:8])[O:2][C:3]([H:9])([H:10])[C-:4]2[N+:5]([H:11])([H:12])[C@@:6]12[H:13]>>[C:1]1([H:7])([H:8])[O:2][C:3]([H:9])([H:10])[C@@:4]2([H:11])[N:5]([H:12])[C@@:6]12[H:13],13.961006576466595
[C:1]([O:7][C:6](=[C:5]=[C:4]=[C:2]([C:3]([H:12])([H:13])[H:14])[H:11])[H:15])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]#[C:5][C:6](=[O:7])[H:15])[H:11])([H:8])([H:9])[H:10],84.512398547228
[C:1]([C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[O:5]/[C:6]1=[N:7]\[H:16])([H:8])([H:9])[H:10]>>[C:1]([C:2]1([C:3]([H:11])([H:12])[H:13])[C-:4]([H:15])[O+:5]=[C:6]1[N:7]([H:14])[H:16])([H:8])([H:9])[H:10],104.508121425963
[C:1]([N:2]([C:3]1=[C:7]([H:14])[C@:6]1([N:5]([N:4])[H:12])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([c:3]1[n:4][n:5]([H:12])[c:6]([H:13])[c:7]1[H:14])[H:11])([H:8])([H:9])[H:10],32.813047909584014
[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C:4]1=[C:5]=[C:6]([H:11])[H:12])[H:7]>>[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5]#[C:6][H:12])[H:11])[H:7],86.27386599065404
[C:3]([O:4][H:12])([C:5]#[N:6])([H:10])[H:11].[N:1]([C:2][H:9])([H:7])[H:8]>>[N:1]([C:2]([C@@:3]([O:4][H:12])([C:5]#[N:6])[H:11])([H:9])[H:10])([H:7])[H:8],26.6547297850202
[N:1]#[C:2][C@@:3]1([H:8])[C:4]([H:9])([H:10])[C@@:5]2([H:11])[C:6]([H:12])([H:13])[N:7]12>>[N:1](=[C:2]=[C:3]([C:4]([C@@:5]1([H:11])[C:6]([H:13])=[N:7]1)([H:9])[H:10])[H:8])[H:12],67.49759889509028
[O:1]([C:2][C:3]([C@@:4]1([C:7]([H:9])([H:14])[H:15])[C:5]([H:12])([H:13])[O:6]1)([H:10])[H:11])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]2([C:5]([H:12])([H:13])[O:6]2)[C:7]1([H:14])[H:15])[H:8],30.959786002730695
[C:1]([O:2]/[C:3](=[N:4]/[C:5]([H:10])([H:11])[H:12])[C:6]([H:13])([H:14])[H:15])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:5]([H:10])([H:11])[H:12])([H:7])([H:8])[H:9].[C:3](#[N:4])[C:6]([H:13])([H:14])[H:15],96.968372264879
[O:1]([C@@:2]([C:3]([C:4]#[C:5][H:12])([H:10])[H:11])([C:6]#[C:7][H:13])[H:9])[H:8]>>[O:1]1[C@@:2]([C:6]#[C:7][H:13])([H:9])[C:3]([H:10])([H:11])[C:4]1=[C:5]([H:8])[H:12],71.6987437877279
[N:1](=[C:2](/[N:3]([C:4](=[O:5])[H:9])[H:8])[H:7])\[H:6]>>[N:1](=[C:2](/[N:3]=[C:4](/[O:5][H:8])[H:9])[H:7])\[H:6],47.012488653632495
[N:1]([C:2]([O:3][O:7][C:6](=[O:5])[H:12])=[C:4]([H:10])[H:11])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:4]([O:5][C:6](=[O:7])[H:12])([H:10])[H:11])([H:8])[H:9],17.3106365088977
[C:1]([C:2]([C:3](=[O:4])[C:5]#[C:6][C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3](=[O:4])[H:11])([C:5]#[C:6][C:7]([H:13])([H:14])[H:15])[H:12])([H:8])([H:9])[H:10],86.80728483728541
[C:1](#[C:2][H:5])[C:3]#[N:4]>>[C-:1]=[C:2]([N+:4]#[C:3])[H:5],96.5459097188823
[C:1]([C@@:2]([O:3][H:11])([C:4](=[O:5])[N:6]([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3][H:11])=[C:4]([O-:5])[N+:6]([H:10])([H:12])[H:13])([H:7])([H:8])[H:9],80.991119173053
[O:1]=[C:2]([C@@:3]1([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[O:6]1)[H:7]>>[O:1]1[C:2]([H:7])([H:11])[C@@:3]1([C:4]([C:5](=[O:6])[H:12])([H:9])[H:10])[H:8],76.26351143672
[C:1]([C:2]([C:3]([O+:4]=[C-:5][O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([O:4][C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],31.9320173955498
[C:1]([O:2][C:3]([C@@:4]([C:5]([H:13])([H:14])[H:15])([O:6][H:16])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:2]/[C:3](=[C:4](/[C:5]([H:13])([H:14])[H:15])[H:12])[H:11])([H:7])([H:8])[H:9].[O:6]([H:10])[H:16],70.5223520102425
[C:1]1([H:7])([H:8])[O:2][C:3]12[C:4]([H:9])([H:10])[O:5][C:6]2([H:11])[H:12]>>[C:1]1([H:7])([H:8])[O:2][C@:3]1([C:4]([O:5][H:11])([H:9])[H:10])[C:6][H:12],76.60982666526459
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([N:4]([C:5]([H:15])([H:16])[H:17])[C:6](=[O:7])[H:18])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([N+:4]([C-:5]([H:15])[H:16])([C:6](=[O:7])[H:18])[H:17])[H:11])([H:8])([H:9])[H:10],90.02451601780348
[C:1]1([H:7])=[C:6]([H:13])[N:5]([H:12])[C:4]([H:11])=[C:3]([H:10])[C:2]1([H:8])[H:9]>>[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C@@:4]2([H:11])[N:5]([H:12])[C@@:6]12[H:13],74.64949015171871
[C:1]([C:2]([H:8])([H:9])[H:10])([H:5])([H:6])[H:7].[C:3]([O:4][H:12])[H:11]>>[C:1]([C:2]([C:3]([O:4][H:12])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7],18.766489509574498
